US05167691
To a stirred solution of 0.68 gram (0.0020 mole) of 5-amino-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl) -4-nitropyrazole and 0.42 gram (0.0042 mole) of triethylamine in 20 mL of tetrahydrofuran was added dropwise a solution of 0.55 gram (0.0040 mole) of acetoxyacetyl chloride in 8 mL of tetrahydrofuran. The reaction mixture was heated at reflux for two hours. An additional 0.43 gram of acetoxyacetyl chloride and 0.22 gram of triethylamine were added, and the mixture was heated at reflux for 20 minutes. The mixture was cooled and filtered, and the filtrate was evaporated under reduced pressure, leaving an oil. This oil was purified by column chromatography on silica gel, eluted with ethyl acetate/n-hexane (50:50) to yield 0.11 gram of 1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)-5-methylcarbonyloxymethylcarbonylamino -4-nitropyrazole as a waxy solid, Compound 14 of Table 1. The nmr spectrum was consistent with the proposed structure.

reactant | 5-amino-1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl) -4-nitropyrazole | 0.0020 mole, 0.68 gram | NC1=C(C=NN1C1=C(C(=C(C(=C1F)F)C(F)(F)F)F)F)[N+](=O)[O-] | C10H3F7N4O2
reactant | triethylamine | 0.0042 mole, 0.42 gram | C(C)N(CC)CC | C6H15N
reactant | acetoxyacetyl chloride | 0.0040 mole, 0.55 gram | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | acetoxyacetyl chloride | 0.43 gram | C(C)(=O)OCC(=O)Cl | C4H5ClO3
reactant | triethylamine | 0.22 gram | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 1-(2,3,5,6-tetrafluoro-4-trifluoromethylphenyl)-5-methylcarbonyloxymethylcarbonylamino -4-nitropyrazole | 0.11 gram | FC1=C(C(=C(C(=C1F)C(F)(F)F)F)F)N1N=CC(=C1NC(=O)COC(=O)C)[N+](=O)[O-] | C14H7F7N4O5
